* geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-anise -O include_mode LVDfoo.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-anise version 2015.08.08                        *
*********************************************************
.INCLUDE ./models/openIP_5.cir
*============== Begin SPICE netlist of main design ============
Cm m 0 20p 
Cp p 0 20p 
Rlp p Vdd1 1meg 
Rlm m 0 500k 
Vdd Vdd1 0 DC 3.3V
V1 i 0 pulse 3.3 0 1u 10p 10p 1.25u 2.5u
Rt p m 1k 
Rb 0 LVH 5.6k 
M1 LVH LVH Vdd1 Vdd1 pch  l=3u w=3u m=36
UX1 i 0 LVH m p Vdd1 0 unknown_LVD
.end
